US06974817B2
(5-Chloro-2-methoxy-phenyl)-acetic acid
To a solution of (5-chloro-2-methoxy-phenyl)-acetonitrile (17.2 g, 96.3 mmol) in ethanol (200 mL) and water (20 mL) was added potassium hydroxide (27 g, 481 mmol). The reaction was heated to reflux for 12 hours, cooled and the ethanol was removed by concentrating in vacuo. The remaining solution was acidified with aqueous hydrochloric acid (3 M) and extracted with diethyl ether. The organic layer was dried over magnesium sulfate and concentrated in vacuo to give the title compound (15.6 g).

reactant | (5-chloro-2-methoxy-phenyl)-acetonitrile | 96.3 mmol, 17.2 g | ClC=1C=CC(=C(C1)CC#N)OC | C9H8ClNO
reactant | potassium hydroxide | 481 mmol, 27 g | [OH-].[K+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | (5-Chloro-2-methoxy-phenyl)-acetic acid | 15.6 g | ClC=1C=CC(=C(C1)CC(=O)O)OC | C9H9ClO3
